US05625050
5'-O-tert-Butyldimethylsilyl-3'-deoxy-3'-formylthymidine (Compound 11, Table VII) was prepared by dissolving 5'-O-tert-Butyldimethylsilyl-3'-deoxy-3'-ethylacrylylthymidine (1 g, 2.3 mmole) and 4-methylmorpholine-N-oxide (0.52 g, 4.4 mmole) in a solution of 40 ml acetone and 4 ml water to give a clear pale yellow solution. Aqueous osmium tetroxide (11.2 ml, 0.050 g/ml, 2.2 mmole) was then added and the resulting pale yellow mixture stirred for 2 hours. After this time 1.17 g sodium periodate (5.47 mmole) was added to the reaction and stirring was continued for one more hour. The stirred mixture was then treated with 0.60 g sodium bisulfite and the reaction stirred for an additional hour. At this time the solvent was evaporated and the residue was redissolved in 30 ml ethyl acetate. The solution containing the redissolved residue was washed with water (3×20 ml) and then dried over anhydrous sodium sulfate. Evaporation of the solvent yielded 0.59 g 5'-O-tert-butyldimethylsilyl-3'-deoxy-3'-formylthymidine as a crude red foam that was generally used without further purification (71% yield).

reactant | 5'-O-tert-Butyldimethylsilyl-3'-deoxy-3'-ethylacrylylthymidine | 2.3 mmole, 1 g | [Si](C)(C)(C(C)(C)C)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(C)=C1)C(C=CCC)=O | C21H34N2O5Si
reactant | 4-methylmorpholine-N-oxide | 4.4 mmole, 0.52 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | sodium periodate | 5.47 mmole, 1.17 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | sodium bisulfite | 0.60 g | S([O-])(O)=O.[Na+]
solvent | acetone | 40 ml | CC(=O)C | C3H6O
solvent | water | 4 ml | O | H2O
catalyst | osmium tetroxide | 2.2 mmole, 11.2 ml | [Os](=O)(=O)(=O)=O
product | 5'-O-tert-butyldimethylsilyl-3'-deoxy-3'-formylthymidine | 0.59 g | [Si](C)(C)(C(C)(C)C)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(C)=C1)C=O | C17H28N2O5Si
